US04556670
2,5-Dioxo-4-m-methoxyphenyl-4-imidazolidinepropionic acid
m-Methoxybenzene-gamma-oxo-butanoic acid (C.A. reg. no. 38102-67-9) (10.0 g, 48 mmol) was combined with 22.75 g (235 mmol) ammonium carbonate, 6.5 g (100 mmol) potassium cyanide in 100 ml ethanol and 100 ml water at 65° C. After 5 hours at 65° C. an additional 22.75 g (235 mmol) ammonium carbonate was added and heating was continued for 18 hours. The reaction mixture was concentrated in vacuo, triturated with water and the acidity was adjusted to pH 4 with concentrated hydrochloric acid. A white solid formed which was collected by filtration and dried in vacuo at 80° C. for 20 hours to give 10.6 g (79% yield) of the title compound: mp 138° C.

reactant | m-Methoxybenzene gamma-oxo-butanoic acid | COC=1C=CC=CC1.O=CCCC(=O)O
reactant | ammonium carbonate | 235 mmol, 22.75 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | potassium cyanide | 100 mmol, 6.5 g | [C-]#N.[K+]
reactant | ammonium carbonate | 235 mmol, 22.75 g | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 2,5-Dioxo-4-m-methoxyphenyl-4-imidazolidinepropionic acid | 10.6 g, 79% yield | O=C1NC(C(N1)(CCC(=O)O)C1=CC(=CC=C1)OC)=O | C13H14N2O5
